US05708008
5-(4-fluorobenzoyl)amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 2.69 gm (11.1 mMol) 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole and 1.45 mL (12.3 mMol) 4-fluorobenzoyl chloride, 2.39 gm (59.0%) of the title compound were recovered as a burnt orange powder.

reactant | 5-amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 11.1 mMol, 2.69 gm | NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC | C15H19N3
reactant | 4-fluorobenzoyl chloride | 12.3 mMol, 1.45 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 5-(4-fluorobenzoyl)amino-3-(1-ethyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.39 gm, 59.0% | FC1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C=2CCN(CC2)CC)C=C1 | C22H22FN3O
